US03935177
4 ml n-butyl-lithium solution and 1.38 ml di-i-butylamine are added to 1 l n-hexane and the mixture is stirred for 15 minutes at 20°C with exclusion of air and moisture. A solution of lithium di-i-butylamide is obtained.

reactant | n-butyl-lithium | 4 ml | C(CCC)[Li]
reactant | di-i-butylamine | 1.38 ml | C(C(C)C)NCC(C)C | C8H19N
solvent | n-hexane | 1 l | CCCCCC | C6H14
product | lithium di-i-butylamide | C(C(C)C)[N-]CC(C)C.[Li+] | InChI=1S/C8H18N.Li/c1-7(2)5-9-6-8(3)4;/h7-8H,5-6H2,1-4H3;/q-1;+1
